US07790733B2
b) 8-Methoxy-4-methyl-3,4-dihydro-1H-quinazoline-2-thione
Under an atmosphere of nitrogen and at a temperature of 65° C., sodium borohydride (154 mg, 4 mmol) was added to a solution of 1-(2-amino-3-methoxy-phenyl)-ethanone (960 mg, 6 mmol) in ethanol (8 ml). After stirring at 65° C. overnight, water (5 ml), a solution of potassium thiocyanate (620 mg, 6 mmol) in water (3 ml), and a solution of conc. HCl (3 ml) in water (4 ml) were added subsequently. The mixture was then stirred for an additional 3 h at 65° C. Upon cooling, the solvent was evaporated and the residue was taken up in water/ethyl acetate. The organic phase was dried (Na2SO4), and the solvent was evaporated. Chromatography (silica gel, heptan/ethyl acetate=100/0-70/30) gave the title compound (700 mg, 58%).

reactant | sodium borohydride | 4 mmol, 154 mg | [BH4-].[Na+]
reactant | 1-(2-amino-3-methoxy-phenyl)-ethanone | 6 mmol, 960 mg | NC1=C(C=CC=C1OC)C(C)=O | C9H11NO2
reactant | potassium thiocyanate | 6 mmol, 620 mg | [S-]C#N.[K+]
reactant | HCl | 3 ml | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
solvent | water | 4 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 8-Methoxy-4-methyl-3,4-dihydro-1H-quinazoline-2-thione | 700 mg, 58% | COC=1C=CC=C2C(NC(NC12)=S)C | C10H12N2OS
